US07375125B2
A solution of 2-[2-(5-bromo-2-methoxyphenyl)-ethyl]-3-chlorobenzonitrile (0.187 g, 1.0 equiv) in CH2Cl2 (2.5 mL) was allowed to stir under an atmosphere of argon at −78° C. To this solution was added boron tribromide (1.0 M in CH2Cl2, 2.65 mL, 5.0 equiv). After 15 min at −78° C., the solution was allowed to warm to room temperature and stir overnight. The reaction was quenched by the addition of water and the solution was extracted with EtOAc. The organic phase was dried over Na2SO4, filtered and concentrated. The residue was purified by column chromotagraphy (SiO2, 20% EtOAc in hexane) to give 2-[2-(5-bromo-2-hydroxyphenyl)-ethyl]-3-chlorobenzonitrile (0.144 g, 81%).

reactant | 2-[2-(5-bromo-2-methoxyphenyl)-ethyl]-3-chlorobenzonitrile | 0.187 g, 1.0 equiv | BrC=1C=CC(=C(C1)CCC1=C(C#N)C=CC=C1Cl)OC | C16H13BrClNO
reactant | boron tribromide | 1.0 M, 2.65 mL, 5.0 equiv | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
product | 2-[2-(5-bromo-2-hydroxyphenyl)-ethyl]-3-chlorobenzonitrile | 0.144 g, 81% | BrC=1C=CC(=C(C1)CCC1=C(C#N)C=CC=C1Cl)O | C15H11BrClNO
